US06169107A
A mixture of 0.23 g (0.60 mmol) of 4-chloro-1-methyl-6-(2-nitrophenoxy)-2-indoloylguanidine, 0.72 g (3.20 mmol) of tin (II) chloride dihydrate and 15 ml of ethanol was heated to reflux for 3 hours. After cooling, 28% ammonia water was added to the reaction mixture and ethanol was then distilled off under reduced pressure. The residue was extracted three times with ethyl acetate. The combined extracts were then washed with saturated sodium chloride aqueous solution. After drying over anhydrous magnesium sulfate, the solvent was distilled off under reduced pressure. The resulting residue was isolated and purified by silica gel column chromatography to give 0.11 g (51.6%) of 6-(2-aminophenoxy)-4-chloro-1-methyl-2-indoloylguanidine. The product was converted into the hydrochloride with hydrogen chloride/methanol to give 0.097 g of 6-(2-aminophenoxy)-4-chloro-1-methyl-2-indoloylguanidine hydrochloride.

reactant | 4-chloro-1-methyl-6-(2-nitrophenoxy)-2-indoloylguanidine | 0.60 mmol, 0.23 g | ClC1=C2C=C(NC2=CC(=C1)OC1=C(C=CC=C1)[N+](=O)[O-])C(=O)N=C(NC)N | C17H14ClN5O4
reactant | tin (II) chloride dihydrate | 3.20 mmol, 0.72 g | O.O.[Sn](Cl)Cl
reactant | ammonia water | O.N
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 6-(2-aminophenoxy)-4-chloro-1-methyl-2-indoloylguanidine | 0.11 g, 51.6% | NC1=C(OC2=CC(=C3C=C(NC3=C2)C(=O)N=C(NC)N)Cl)C=CC=C1 | C17H16ClN5O2
